US06110962
[11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2.3-d]thiophen-3-yloxy]-acetic acid methyl ester
11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-ol (1.36 g, 3.96 mmol), methyl bromoacetate (0.38 mL, 4.01 mmol), potassium carbonate (0.548 g, 3.97 mmol) and N,N-dimethylformamide (21 mL) were combined and stirred at ambient temperatures for 2.5 h. The reaction mixture was added to water and extracted with ethyl acetate and THF. Silica gel was added to the organic phase and the solvent was removed. The adsorbate was flash chromatographed (eluent:gradient dichloromethane to 98:2 dichloromethane:acetonitrile) to provide the title compound as a white solid (0.953 g, 58%): mp: 229-231° C: NMR (DMSO-d6); δ9.78 (s, 1 H), 8.51 (s, 1 H), 8.00 (d, J=8 Hz, 1 H), 7.56-7.39 (m, 4 H), 7.18 (d, J=9 Hz, 2 H), 7.05 (d, J=9 Hz, 2 H), 6.79 (dd, J=9, 2 Hz, 1 H), 6.66 (d, J=9 Hz, 1 H), 4.86 (s, 2 H), 3.68 (s, 3 H); MS (EI): 414 (100%, M+); Anal. Calc. for C25 H18O4S: C, 72.45, H, 4.38, N, 0.00. Found: C, 71.78, H, 4.41, N, 0.13.

reactant | 11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2,3-d]thiophen-3-ol | 3.96 mmol, 1.36 g | OC1=CC=C(C=C1)C1=C2C=CC=CC2=CC2=C1C1=C(S2)C=C(C=C1)O | C22H14O2S
reactant | methyl bromoacetate | 4.01 mmol, 0.38 mL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 3.97 mmol, 0.548 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 21 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | [11-(4-Hydroxy-phenyl)-benzo[b]naphtho[2.3-d]thiophen-3-yloxy]-acetic acid methyl ester | 0.953 g, 58% | COC(COC=1C=CC2=C(SC3=C2C(=C2C=CC=CC2=C3)C3=CC=C(C=C3)O)C1)=O | C25H18O4S
